US06201004B1
Potassium carbonate (2.62 g) was added to a stirred solution of ethyl 3-chloro-4-formyl-5-hydroxybenzo[b]thiophene-2-carboxylate (4.90 g, prepared as described above) in dry dimethylformamide (50 ml) and then a solution of (R)-glycidyl tosylate (4.12 g) in dry dimethyl formamide (50 ml) was added slowly. The mixture was then stirred at 60° C. for 3 hours, cooled and poured into water (1200 ml). The resulting pale-green solid was collected by filtration, washed with water (200 ml) and dried to give ethyl (R)-3-chloro-5-(2,3-epoxypropoxy)-4-formylbenzo[b]thiophene-2-carboxylate (5.15 g).

reactant | Potassium carbonate | 2.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-chloro-4-formyl-5-hydroxybenzo[b]thiophene-2-carboxylate | 4.90 g | ClC=1C2=C(SC1C(=O)OCC)C=CC(=C2C=O)O | C12H9ClO4S
reactant | (R)-glycidyl tosylate | 4.12 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
reactant | water | 1200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl (R)-3-chloro-5-(2,3-epoxypropoxy)-4-formylbenzo[b]thiophene-2-carboxylate | 5.15 g | ClC=1C2=C(SC1C(=O)OCC)C=CC(=C2C=O)OC[C@H]2CO2 | C15H13ClO5S
